US05126365
A solution of 5-bromosalicylaldehyde (2 g) in diethyl ether (20 ml) was added to (2-naphthyl)magnesium bromide [prepared by adding a solution of 2-bromonaphthalene in diethyl ether (30 ml) to a mixture of magnesium turnings (0.49 g) and diethyl ether (20 ml) and heating the resultant mixture to reflux for 90 minutes] and the mixture was stirred at ambient temperature for 1 hour. A saturated aqueous ammonium chloride solution (20 ml) was added and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic extracts were dried (MgSO4) and evaporated. The residue was purified by column chromatography using increasingly polar mixtures of petroleum ether (b.p. 60°-80° C.) and ethyl acetate as eluent to give 5-bromo-2-hydroxy-α-(2-naphthyl)benzyl alcohol (1.98 g, 60%), m.p. 115°-117° C.

reactant | 5-bromosalicylaldehyde | 2 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | (2-naphthyl)magnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
reactant | 2-bromonaphthalene | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | magnesium | 0.49 g | [Mg] | Mg
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 5-bromo-2-hydroxy-α-(2-naphthyl)benzyl alcohol | 1.98 g, 60% | BrC=1C=CC(=C(C(C2=CC3=CC=CC=C3C=C2)O)C1)O | C17H13BrO2
